US07081468B2
194 mg (0.85 mmol) of 2-(4-pyridylmethyl)aminobenzoic acid is mixed in 8 ml of dimethylformamide with 283 mg (1.69 mmol) of 5-amino-6-chloroindazole. Under argon and in a moisture-free environment, 215 mg (2.13 mmol) of N-methylmorpholine and 386 mg (1.02 mmol) of O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophophate are added to this solution. This mixture is stirred for 4 hours at room temperature. It is then diluted with about 40 ml of water and extracted three times with 30 ml of ethyl acetate each. The combined organic phase is washed with water, dried, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with methylene chloride:ethanol-10:1 as an eluant. 97 mg (30.2% of theory) of N-(6-chloroindazol-5-yl)-2-[(4-pyridyl)methyl]amino-benzoic acid amide with a melting point of 222.8° C. is obtained.

reactant | 2-(4-pyridylmethyl)aminobenzoic acid | 0.85 mmol, 194 mg | N1=CC=C(C=C1)CNC1=C(C(=O)O)C=CC=C1 | C13H12N2O2
reactant | 5-amino-6-chloroindazole | 1.69 mmol, 283 mg | NC=1C=C2C=NNC2=CC1Cl | C7H6ClN3
reactant | N-methylmorpholine | 2.13 mmol, 215 mg | CN1CCOCC1 | C5H11NO
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophophate | 1.02 mmol, 386 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | about 40 ml | O | H2O
product | N-(6-chloroindazol-5-yl)-2-[(4-pyridyl)methyl]amino-benzoic acid amide | 97 mg, 30.2% | ClC1=C(C=C2C=NNC2=C1)NC(C1=C(C=CC=C1)NCC1=CC=NC=C1)=O | C20H16ClN5O
